US07947851B2
Step e) Formation of 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]carbonyl}-2-hydroxybenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
To a solution of 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]carbonyl}-2-hydroxybenzoic acid (91 mg, 98 mmol) in MeOH (2 mL) was added a solution of N-methyl-D-glucamine (35 mg, 0.18 mmol) in water (2 mL). Water (20 mL) was added and the resulting solution was lyophilized to give 103 mg of the title compound as a white powder. HPLC, Rt: 5.73 min (purity: 99.6%). LC/MS, M+(ESI): 512.2, M−(ESI). 510.2. 1H NMR (CD3OD) δ: 0.84 (m, 3H), 0.94 (t, J=7.3 Hz, 3H), 2.28-1.40 (m, 8H), 1.60 (m, 4H), 2.62 (t, J=7.7 Hz, 2H), 2.69 (s, 3H), 3.15 (d, J=6.0 Hz, 2H), 3.31 (m, 2H), 3.63-3.83 (m, 5H), 4.03 (m, 1H), 4.72 (m, 2H), 6.86 (d, J=8.3 Hz, 1H), 7.18 (d, J=8.3 Hz 2H), 7.19 (m, 1H), 7.40 (d, J=7.9 Hz, 4H), 7.48 (d, J=7.9 Hz, 2H), 7.99 (d, J=2.3 Hz, 1H). M+(ESI): 512.2, M−(ESI): 510.2.

reactant | 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]carbonyl}-2-hydroxybenzoic acid | 98 mmol, 91 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C=2C=CC(=C(C(=O)O)C2)O)CCCCCC)C=C1 | C33H37NO4
reactant | N-methyl-D-glucamine | 0.18 mmol, 35 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | Water | 20 mL | O | H2O
product | 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]carbonyl}-2-hydroxybenzoic acid N-methyl-D-glucamine | 103 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C=2C=CC(=C(C(=O)O)C2)O)CCCCCC)C=C1 | InChI=1S/C33H37NO4.C7H17NO5/c1-3-5-7-8-22-34(32(36)29-20-21-31(35)30(23-29)33(37)38)24-28-18-16-27(17-19-28)15-14-26-12-10-25(11-13-26)9-6-4-2;1-8-2-4(10)6(12)7(13)5(11)3-9/h10-13,16-21,23,35H,3-9,22,24H2,1-2H3,(H,37,38);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
